US06228547B1
(1) Synthesis of N,N′-Di-2-naphthyl-m-phenylenediamine
Into a 100-ml reaction flask were introduced 5.0 g (46.2 mmol) of m-phenylenediamine, 20.1 g (97.1 mmol) of 2-bromonaphthalene, 222 mg of Pd2 (dba)3, i.e., tris(dibenzylideneacetone)dipalladium, 269 mg of 1,1-bis(diphenylphosphino)ferrocene, and 9.5 g (98.9 mmol) of sodium t-butoxide. After the atmosphere in the flask was replaced with nitrogen, 20 ml of toluene was added to the contents. This mixture was reacted at 120° C. overnight. The reaction mixture was cooled to room temperature and the resultant inorganic salt precipitate was filtered off. The filtrate was washed with water (twice), dried (MgSO4), and then concentrated. The resultant crude crystals were recrystallized from toluene to obtain 7.03 g of the target compound.

reactant | m-phenylenediamine | 46.2 mmol, 5.0 g | C1(=CC(=CC=C1)N)N | C6H8N2
reactant | 2-bromonaphthalene | 97.1 mmol, 20.1 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | sodium t-butoxide | 98.9 mmol, 9.5 g | CC(C)([O-])C.[Na+]
catalyst | Pd2 (dba)3 | 222 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 269 mg | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N,N′-Di-2-naphthyl-m-phenylenediamine | 7.03 g | C1=C(C=CC2=CC=CC=C12)NC1=CC(=CC=C1)NC1=CC2=CC=CC=C2C=C1 | C26H20N2
